US08222248B2
A suspension of give 4-amino-N-isoquinolin-1-yl-3-nitrobenzamide and platinum oxide (330 mg) in MeOH (100 mL) was hydrogenated at 40 psi for 18 h. The catalyst was filtered from the solution through Celite and the filtrate evaporated to give 3,4-diamino-N-isoquinolin-1-yl-benzamide as a thick oil. MS (ESI) m/z 279.1 (M+H).

reactant | 4-amino-N-isoquinolin-1-yl-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=NC=CC3=CC=CC=C23)C=C1)[N+](=O)[O-] | C16H12N4O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | platinum oxide | 330 mg | [Pt]=O
product | 3,4-diamino-N-isoquinolin-1-yl-benzamide | NC=1C=C(C(=O)NC2=NC=CC3=CC=CC=C23)C=CC1N | C16H14N4O
